*Memoria de uma bitcell

simulator lang=spice

.include 'TRISTATE.spi'
.include 'INV.spi'
.include 'PassTransistor.spi'
.include '45nm_LP.pm'

.param Vread = 1
.param Tpread = 1.8n
.param cap = 15f

Vwl WL Gnd3 PWL 0 0 (0.7n-1f) 0 0.7n 1 (1.2n-1f) 1 1.2n 0 (2.1n-1f) 0 2.1n 1 (2.6n-1f) 1 2.6n 0 

Vwdb WDB Gnd2 PWL 0 0 (0.5n-1f) 0 0.5n 1 
Vwd WD Gnd1 PWL 0 1 (0.5n-1f) 1 0.5n 0
*En liga em 1  ENB em 0
Venb ENB Gnd PWL 0 1 (0.5n-1f) 1 0.5n 0 (1n-1f) 0 1n 1  
Ven EN Gnd PWL 0 0 (0.5n-1f) 0 0.5n 1 (1n-1f) 1 1n 0 
Vpre PRE Gnd4 PWL 0 1 '(Tpread-1f)' 1 'Tpread' 0 (2.1n-1f) 0 2.1n 1 

Vvdd Vvdd Gnd5 'Vread'

Vdd Vdd Gnd 1
Vgnd Gnd 0 0
Vgnd1 Gnd1 0 0
Vgnd2 Gnd2 0 0
Vgnd3 Gnd3 0 0
Vgnd4 Gnd4 0 0
Vgnd5 Gnd5 0 0

*Bitcell
*Inversor A Y VDD VSS 
X0 Q QB Vdd Gnd INV
X1 QB Q Vdd Gnd INV
*Transistor Drain Gate Source Bulk
M_i_0 BL WL Q Gnd NMOS_VTL W=0.415000U L=0.050000U
M_i_1 BLB WL QB Gnd NMOS_VTL W=0.415000U L=0.050000U

*Write cell
*TRISTATE A Y EN ENB VDD VSS 
X3 WD BL EN ENB Vdd Gnd TI
X2 WDB BLB EN ENB Vdd Gnd TI

*Pre Charge
M_i_2 BL PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_3 BLB PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_4 BL PRE BLB Vdd PMOS_VTL W=0.630000U L=0.050000U

*Bitlines Capacitance
Cbl BL Gnd 'cap'
Cblb BLB Gnd 'cap'

.TRAN 100p 4n

.option rawfmt="psfbin"
